US04405810
A solution of lithium amide in liquid ammonia is prepared by the addition of lithium metal (2 mmoles) to liquid ammonia containing a trace amount of ferrous sulfate. To this solution is added 4-bromo-n-butanol (1 mmole) and p-(n-octyl)benzylacetylene (1 mmole, prepared as described in paragraph B of Example 6 or in paragraph A of this example). After a suitable time at refluxing liquid ammonia temperatures, the ammonia is removed by evaporation and the residue dissolved in water. After extraction with chloroform, the chloroform layer is separated and the solvent removed by evaporation to give a residue. This residue is purified by distillation under vacuum to give 7-[p-(n-octyl)phenyl]-5-heptyn-1-ol.

reactant | lithium amide | [NH2-].[Li+]
reactant | ammonia | N | H3N
reactant | lithium | 2 mmoles | [Li] | Li
reactant | 4-bromo-n-butanol | 1 mmole | BrCCCCO | C4H9BrO
reactant | p-(n-octyl)benzylacetylene | C(CCCCCCC)C1=CC=C(CC#C)C=C1 | C17H24
product | 7-[p-(n-octyl)phenyl]-5-heptyn-1-ol | C(CCCCCCC)C1=CC=C(C=C1)CC#CCCCCO | C21H32O
